US04123529
(b) 2-Chloromethyl-5-phenyloxazole
N-Phenacyl chloroacetamide (22.6 g; 0.107 mole) was mixed with polyphosphoric acid (200 g) and the mass heated with stirring for 30 minutes at 150° C. The hot liquid was then poured with vigorous stirring into water (800 ml). The mixture so formed was extracted with 3 × 100 ml chloroform, the extracts washed by shaking with water and dried over magnesium sulphate. The CHCl3 was evaporated off and the remaining oil extracted with 400 ml boiling 60°-80°0 C. petroleum ether. The resultant solution was treated with decolourising charcoal to remove tarry matter and evaporated, giving a pale yellow oil which crystallized rapidly. Yield 18.8 g (91%) m.p. 70°-1° C.

reactant | N-Phenacyl chloroacetamide | 0.107 mole, 22.6 g | C(C(=O)C1=CC=CC=C1)NC(CCl)=O | C10H10ClNO2
solvent | water | 800 ml | O | H2O
product | 2-Chloromethyl-5-phenyloxazole | ClCC=1OC(=CN1)C1=CC=CC=C1 | C10H8ClNO
